Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GIB
 
Major Surgical or Invasive Procedure:
EGD - ___

 
History of Present Illness:
HPI: The patient is a ___ year old male with h/o lactose 
intolerance who developed gas and pain in ___. He was 
able to eat only bland foods. His sx progressed still. His GI 
doctor was concerned that he might have H pylori and he was 
started on therap. His stools then had a red hue which he 
thought was secondary to his meds. His stool then started 
getting darker.  On ___ evening he black stools which scared 
him.  He then developed LH which reminded him of his father when 
he was bleeding. He came to the US for a conference and on the 
last day of the conference he called his doctor who advised him 
to come to the hospital.
Last BM yesterday am which dark but not as dark as the night 
before.  +L H and headache when he stood up from the stretcher 
to walk to the bed he felt lH. He was also seeing floaters. No 
f/c. + Cp and tightness. He developed SSCP when he was laying 
down. Touching it is tender and it feels bruised.No worsening of 
pain when walking around his house. + nausea but no emesis. He 
started feeling nauseous when he stool up for orthostatic VS. 
 

In ER: (Triage Vitals: 0 |98.5 |80 |139/83 |16 |98% RA  ) 
Meds Given: , Fluids given: Radiology Studies:, consults called.

.

PAIN ___ generalized pain in stomach, worse with standing. 
+ 15s since the beginning of the year through diet and exercise
 CONSTITUTIONAL:  As per HPI
 HEENT:  [X] All normal
 RESPIRATORY:  [X] All normal
 CARDIAC:  [X] All normal
 GI:  As per HPI
 GU:  [X] All normal
 SKIN:  [X] All normal
 MUSCULOSKELETAL:  [X] All normal
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal

All other systems negative except as noted above

 
 
Past Medical History:
H/o appendicitis- ___ years old
H/o rectal fissue
S/p endoscopy which demonstrated "excess production" and 
diagnosis of GERD since ___
No h/o ulcers
H/o tinnitis
 
Social History:
___
Family History:
His father had bleeding ulcer requiring transfusion. His father 
is healthy at age ___. His mother had angina. Her mother died of 
a blood clot after knee surgery in her ___
 
Physical Exam:
ADMISSION
Laying 63 131/79
Sitting 78 142/92
Standing 92 137/100

Vitals:  T 97.9 P 62  BP 135/87  RR 18  SaO2 97% on RA 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
 CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
 GI: +bs, soft, + epgiastric tenderness, nabs, no rebound or 
guarding. 
RECTAL: Scant amount of brown stool
MSK:no c/c/e 2+pulses  
 SKIN: no rash  
 NEURO: face symmetric speech fluent  
 PSYCH: calm, cooperative, very pleasant  
LAD: No cervical LAD

DISCHARGE
VS: 97.9 135/87 62 18 97%RA
Gen: sleeping, awakening to voice and then sitting up in bed, 
comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, no rebound/guarding; normoactive bowel 
sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 04:00PM BLOOD WBC-8.2 RBC-4.56* Hgb-14.3 Hct-40.4 
MCV-89 MCH-31.4 MCHC-35.4 RDW-12.5 RDWSD-40.4 Plt ___
___ 04:00PM BLOOD Glucose-97 UreaN-18 Creat-1.1 Na-138 
K-3.9 Cl-103 HCO3-24 AnGap-15

DISCHARGE
___ 08:30AM BLOOD WBC-7.4 RBC-4.70 Hgb-14.4 Hct-41.2 MCV-88 
MCH-30.6 MCHC-35.0 RDW-12.3 RDWSD-39.2 Plt ___
___ 08:30AM BLOOD Glucose-96 UreaN-13 Creat-1.0 Na-139 
K-3.8 Cl-102 HCO3-26 AnGap-15

CXR
No acute intrathoracic process.
 
CT Abd/Pelvis
1.  No acute process in the abdomen or pelvis.
2.  Bilateral small fat-containing umbilical hernias.
3.  1.1-cm right hepatic lobe hypodensity, too small to 
characterize could be cyst or hemangioma.  Further evaluation 
with non-emergent ultrasound as
outpatient is recommended.
RECOMMENDATION(S):  Non-emergent abdominal ultrasound to 
evaluate hepatic lesion.

EGD
Esophagus:
OtherIrregular Z-line at the GE junction. Cold forceps biopsies 
were performed for histology to rule out ___. 
Stomach:
Mucosa:Normal mucosa was noted. Cold forceps biopsies were 
performed for histology. 
Protruding LesionsThree fundic gland polyps less than 2mm in 
size were seen.  
Duodenum:Normal duodenum.
Impression:Irregular Z-line at the GE junction. (biopsy)
Normal mucosa in the stomach (biopsy)
Polyps in the fundus
Otherwise normal EGD to third part of the duodenum
Recommendations:Continue PPI. 
Follow up biopsies from stomach and GE junction.
 
Brief Hospital Course:
This is a ___ year old male resident of ___ here in 
___ on business with past medical history of GERD, recent 
empiric initiation of course of triple therapy for presumed 
Hpylori, as well as empiric fluconazole for presumed 
esophagitis, admitted ___ with several days of reported 
melena, Hgb 14.4 and stable, status post EGD without signs of 
bleeding, s/p biopsies of GE junction and stomach mucosa, 
recommended for outpatient colonoscopy, discharged home

# GI Bleed NOS / Melena - Patient presented with several weeks 
of intermittent epigastric burning and 2 days of dark stools.  
He had recently been started on empiric Hpylori eradication 
therapy and antifungal therapy by PCP, with some improvement in 
subjective symptoms.  There was concern for upper GI bleed, 
prompting inpatient EGD, which showed: irregular Z-line at the 
GE junction (biopsied) and normal gastric mucosa (biopsied) 
without obvious source of bleeding.  Hemoglobin was stable 
during this time at 14 without ongoing signs of hemodynamic 
instability.  Given stability, GI service recommended patient 
obtain outpatient colonoscopy.  Continued patient to complete 
recently started triple therapy.  Continued home PPI as well.  
Instructed him again chronic NSAID use given risk for gastric 
irritation.  

# Insomnia - continued home ambien 

# Anxiety - continued home Escitalopram 

Transitional Issues
- No signs fungal infection, fluconazole stopped
- Continued triple therapy, would recommend ongoing PPI therapy 
- Gastric and GE junction biopsies pending at discharge
- CT Abd/Pelvis showed: "1.1-cm right hepatic lobe hypodensity, 
too small to characterize could be cyst or hemangioma.  Further 
evaluation with non-emergent ultrasound as outpatient is 
recommended."

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 40 mg PO BID 
2. Amoxicillin 1000 mg PO Q12H 
3. MetroNIDAZOLE 500 mg PO BID 
4. Fluconazole 100 mg PO Q24H 
5. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
6. Zolpidem Tartrate 10 mg PO QHS 
7. Celebrex ___ mg ORAL DAILY 
8. Escitalopram Oxalate 20 mg PO DAILY 

 
Discharge Medications:
1. Amoxicillin 1000 mg PO Q12H 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Famotidine 40 mg PO BID 
4. MetroNIDAZOLE 500 mg PO BID 
5. Zolpidem Tartrate 10 mg PO QHS 
6. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# GI Bleed NOS / Melena
# Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with dark stools.  You were seen by GI specialists.  You 
underwent endoscopy that did not show signs of bleeding.  You 
had biopsies taken--the GI doctors ___ contact ___ with the 
results.  Your blood levels were normal.  

The GI doctors recommended ___ have a colonoscopy as an 
outpatient.  You are now ready for discharge.

Of note, on your CT scan in the emergency department, the 
radiologist saw a small abnormality in your liver--to better 
visualize it, they recommended an outpatient ultrasound of your 
liver.  We have sent a note to your primary care doctor to let 
him know about this.  
 
Followup Instructions:
___